US04889854
from 4-[(4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazine-1-yl)carbonyl]morpholine in methanol/glacial acetic acid (10:1), but without the addition of saturated methanolic hydrochloric acid, there is obtained 4-[(6,7-dihydro-4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazin-1-yl)carbonyl]morpholine of m.p. 254°-257° (acetonitrile);

reactant | 4-[(4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazine-1-yl)carbonyl]morpholine | O=C1C(=CC(=C2N1N=CC1=CC=CC=C21)C(=O)N2CCOCC2)C2=CC=CC=C2 | C23H19N3O3
reactant | hydrochloric acid | Cl | ClH
reactant | acetonitrile | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
product | 4-[(6,7-dihydro-4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazin-1-yl)carbonyl]morpholine | O=C1C(=CC(=C2N1NCC1=CC=CC=C21)C(=O)N2CCOCC2)C2=CC=CC=C2 | C23H21N3O3
